US06175042B1
A mixture of 4.69 g of 2-methoxyphenyl trifluoromethyl sulfide, obtained according to Example 3, 20 ml of 48% strength by weight aqueous hydrobromic acid, and 20 ml of 96% strength by weight acetic acid was boiled under reflux for 24 hours. The completion of the reaction was then checked by gas chromatography. After cooling, the reaction mixture was poured into water. The organic phase was separated off and the aqueous phase was extracted with dichloromethane. The extract was combined with the organic phase. Drying over magnesium sulfate, concentration, and vacuum distillation gave 2.01 g (46% of theory) of 2-hydroxyphenyl trifluoromethyl sulfide (boiling point 65-66° C. at 26 mbar, melting point 35-37° C.).

reactant | 2-methoxyphenyl trifluoromethyl sulfide | 4.69 g | FC(F)(F)SC1=C(C=CC=C1)OC | C8H7F3OS
reactant | hydrobromic acid | Br | BrH
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 2-hydroxyphenyl trifluoromethyl sulfide | 2.01 g, 46% | FC(F)(F)SC1=C(C=CC=C1)O | C7H5F3OS
